US08258134B2
A mixture of hydroxylamine hydrochloride (453 mg, 6.52 mmol) in ethanol (4.85 mL) was treated with a solution of potassium hydroxide (197.5 mg, 3.52 mmol) in water (2.93 mL) and ethanol (2.93 mL) followed by addition of 5-(2,5-dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester (0.32 g, 1.40 mmol). The resulting reaction mixture was heated in a sealed tube at 105° C. for 3 d. After this time, the reaction was cooled to 25° C. and then concentrated in vacuo. The residue was then partitioned between water (150 mL) and diethyl ether (3×75 mL). The combined organics were washed with a saturated aqueous sodium bicarbonate solution (2×150 mL), dried over sodium sulfate, filtered, and concentrated in vacuo. Silica gel column chromatography (AnaLogix, 40 g, 10-100% ethyl acetate/hexanes) afforded 5-amino-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester (34.9 mg, 16%) as an orange-brown solid; ES+-HRMS m/e calcd for C6H9N3O2 [M+H+] 156.0768, found 156.0767.

reactant | hydroxylamine hydrochloride | 6.52 mmol, 453 mg | Cl.NO
reactant | potassium hydroxide | 3.52 mmol, 197.5 mg | [OH-].[K+]
reactant | 5-(2,5-dimethyl-pyrrol-1-yl)-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 1.40 mmol, 0.32 g | COC(=O)C=1N(N=C(C1)N1C(=CC=C1C)C)C | C12H15N3O2
solvent | ethanol | 4.85 mL | C(C)O | C2H6O
solvent | water | 2.93 mL | O | H2O
solvent | ethanol | 2.93 mL | C(C)O | C2H6O
product | 5-amino-2-methyl-2H-pyrazole-3-carboxylic acid methyl ester | 34.9 mg, 16% | COC(=O)C=1N(N=C(C1)N)C | C6H9N3O2
